US08258134B2
A solution of 2-[4-(1H-indol-4-yloxy)-6-oxo-6H-pyridazin-1-yl]-4-methyl-pentanoic acid (1-methyl-1H-pyrazol-3-yl)-amide (34.0 mg, 0.0809 mmol) in N,N-dimethylformamide (1.0 mL) was treated with potassium carbonate (23.1 mg, 0.16 mmol) and toluene-4-sulfonic acid (S)-2,2-dimethyl-[1,3]dioxolan-4-yl ester (25.5 mg, 0.08 mmol). The resulting reaction mixture was heated at 90° C. overnight. At this time, the reaction mixture was allowed to cool to 25° C., concentrated in vacuo and was treated with a saturated aqueous ammonium chloride solution (2 drops). The reaction was then concentrated in vacuo onto silica gel. Silica gel column chromatography (AnaLogix 12 g, 1-5% methanol/methylene chloride) afforded 2-{4-[1-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-indol-4-yloxy]-6-oxo-6H-pyridazin-1-yl}-4-methyl-pentanoic acid (1-methyl-1H-pyrazol-3-yl)-amide (9.0 mg, 21%) as a viscous brown oil.

reactant | 2-[4-(1H-indol-4-yloxy)-6-oxo-6H-pyridazin-1-yl]-4-methyl-pentanoic acid (1-methyl-1H-pyrazol-3-yl)-amide | 0.0809 mmol, 34.0 mg | CN1N=C(C=C1)NC(C(CC(C)C)N1N=CC(=CC1=O)OC1=C2C=CNC2=CC=C1)=O | C22H24N6O3
reactant | potassium carbonate | 0.16 mmol, 23.1 mg | C([O-])([O-])=O.[K+].[K+]
reactant | toluene-4-sulfonic acid (S)-2,2-dimethyl-[1,3]dioxolan-4-yl ester | 0.08 mmol, 25.5 mg | CC1(OC[C@@H](O1)OS(=O)(=O)C1=CC=C(C=C1)C)C | C12H16O5S
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | 2-{4-[1-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-indol-4-yloxy]-6-oxo-6H-pyridazin-1-yl}-4-methyl-pentanoic acid (1-methyl-1H-pyrazol-3-yl)-amide | 9.0 mg, 21% | CN1N=C(C=C1)NC(C(CC(C)C)N1N=CC(=CC1=O)OC1=C2C=CN(C2=CC=C1)C[C@H]1OC(OC1)(C)C)=O | C28H34N6O5
